US05912258
Synthesis of 2-(4-geranyloxybenzoyl)amino-5-diethylaminopropylthio-1,3,4-thiadiazole
Sodium hydride (0.4 g) and 2-amino-5-diethylaminopropylthio-1,3,4-thiadiazole (1.5 g) were stirred in tetrahydrofuran (30 ml) for 30 minutes while being cooled with ice. 4-Geranyloxybenzoic acid (1.8 g) and carbonyldlimidazole (1.1 g) were stirred in tetrahydrofuran (30 ml) for 30 minutes at room temperature and the mixture was added to the former reaction mixture. The mixture was stirred for 4 hours at room temperature, and then concentrated under a vacuum. The residue, with water added thereto, was extracted with ethyl acetate. The extract was dried over sodium sulfate anhydride, and then concentrated under a vacuum. The residue was purified by silica gel column chromatography (chloroform:methanol=15:1). The resulting solid was recrystallized from n-hexane/ethanol, thereby yielding 3.1 g of the aimed compound.

reactant | Sodium hydride | 0.4 g | [H-].[Na+]
reactant | 2-amino-5-diethylaminopropylthio-1,3,4-thiadiazole | 1.5 g | NC=1SC(=NN1)SCCCN(CC)CC | C9H18N4S2
reactant | 4-Geranyloxybenzoic acid | 1.8 g | C(\C=C(/C)\CCC=C(C)C)OC1=CC=C(C(=O)O)C=C1 | C17H22O3
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-(4-geranyloxybenzoyl)amino-5-diethylaminopropylthio-1,3,4-thiadiazole | 3.1 g | C(\C=C(/C)\CCC=C(C)C)OC1=CC=C(C(=O)NC=2SC(=NN2)SCCCN(CC)CC)C=C1 | C26H38N4O2S2
